### PR TITLE
feat: tree map lemmas for insertMany

### PR DESCRIPTION
**Pull request by datokrat**
This PR provides lemmas about the tree map function `insertMany` and its interaction with other functions for which lemmas already exist. Most lemmas about `ofList`, which is related to `insertMany`, are not included.

### CODE REVIEW

File: src/Std/Classes/Ord.lean [hunk 1]
```diff
@@ -295,6 +295,13 @@ class LawfulBEqCmp {α : Type u} [BEq α] (cmp : α → α → Ordering) : Prop
   /-- If two values compare equal, then they are logically equal. -/
   compare_eq_iff_beq {a b : α} : cmp a b = .eq ↔ a == b
 
+theorem LawfulBEqCmp.not_compare_eq_iff_beq_eq_false {α : Type u} [BEq α] {cmp}
+    [LawfulBEqCmp (α := α) cmp] {a b : α} : ¬ cmp a b = .eq ↔ (a == b) = false := by
+  rw [Bool.eq_false_iff, ne_eq, not_congr]
+  exact compare_eq_iff_beq
+
+export LawfulBEqCmp (compare_eq_iff_beq not_compare_eq_iff_beq_eq_false)
```
Comment (datokrat) [inline src/Std/Classes/Ord.lean:303]: I wonder whether these lemmas -- and `compare_eq_iff_eq` as well -- should rather be called `cmp_eq_iff_eq`. Then `compare_eq_iff_*` could refer to the `Ord`-instance-based variants.

Comment (TwoFX) [reply src/Std/Classes/Ord.lean:303]: Yes, this sounds like a good idea. Another option could be to not export these lemmas.

File: src/Std/Data/TreeSet/Lemmas.lean [hunk 2]
```diff
@@ -396,4 +396,123 @@ theorem forIn_eq_forIn_toList [Monad m] [LawfulMonad m] {f : α → δ → m (Fo
...
+
+theorem get?_insertMany_list_of_not_mem_of_contains_eq_false
+    [TransCmp cmp] [BEq α] [LawfulBEqCmp cmp]  {l : List α} {k : α}
+    (not_mem : ¬ k ∈ t) (contains_eq_false : l.contains k = false) :
+    get? (insertMany t l) k = none :=
+  TreeMap.getKey?_insertManyIfNewUnit_list_of_not_mem_of_contains_eq_false
+    not_mem contains_eq_false
+
+theorem get?_insertMany_list_of_not_mem_of_mem [TransCmp cmp]
+     {l : List α} {k k' : α} (k_eq : cmp k k' = .eq)
```
Comment (TwoFX) [inline src/Std/Data/TreeSet/Lemmas.lean:438]: Something is off about the indentation, here and elsewhere.

File: src/Std/Data/DTreeMap/Internal/Lemmas.lean [hunk 3]
```diff
@@ -1665,4 +1673,1216 @@ end Const
...
 end monadic
 
+theorem insertMany_cons (h : t.WF) {l : List ((a : α) × β a)} {k : α} {v : β k} :
+    (t.insertMany (⟨k, v⟩ :: l) h.balanced).1 =
+      ((t.insert k v h.balanced).impl.insertMany l h.insert.balanced).1 := by
+  simp only [insertMany, Id.run, Id.pure_eq, Id.bind_eq, List.forIn_yield_eq_foldl, List.foldl_cons]
+  rw [← List.foldl_hom Subtype.val, ← List.foldl_hom Subtype.val]
+  · exact fun t e => t.insert! e.1 e.2
+  · simp [insert_eq_insert!]
+  · simp [insert_eq_insert!]
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Lemmas.lean:1683]: This seems to be quite a bit harder than for the hash map, do we understand why?

File: src/Std/Data/DTreeMap/Internal/Lemmas.lean [hunk 4]
```diff
@@ -1665,4 +1673,1216 @@ end Const
...
+  simp_to_model [insertMany] using List.getValueCast?_insertList_of_mem
+
+theorem get?_insertMany!_list_of_mem [TransOrd α] [LawfulEqOrd α] (h : t.WF)
+    {l : List ((a : α) × β a)} {k k' : α} (k_beq : compare k k' = .eq) {v : β k}
+    (distinct : l.Pairwise (fun a b => ¬ compare a.1 b.1 = .eq))
+    (mem : ⟨k, v⟩ ∈ l) :
+    (t.insertMany! l).1.get? k' = some (cast (by congr; apply compare_eq_iff_eq.mp k_beq) v) := by
+  simp only [← beq_iff, Bool.not_eq_true] at distinct
+  rw [compare_eq_eq_iff_beq] at k_beq
+  simp_to_model [insertMany!] using List.getValueCast?_insertList_of_mem
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Lemmas.lean:1768]: It's a bit sad that we have to break out of the fully automated mode so much here, but it's not clear to me how to improve this.

File: src/Std/Data/TreeSet/Lemmas.lean [hunk 5]
```diff
@@ -396,4 +396,123 @@ theorem forIn_eq_forIn_toList [Monad m] [LawfulMonad m] {f : α → δ → m (Fo
...
+    k ∈ insertMany t l ↔ k ∈ t ∨ l.contains k :=
+  TreeMap.mem_insertManyIfNewUnit_list
+
+theorem mem_of_mem_insertMany_list [TransCmp cmp] [BEq α] [LawfulBEqCmp cmp]
+    {l : List α} {k : α} (contains_eq_false : l.contains k = false) :
+    k ∈ insertMany t l → k ∈ t :=
+  TreeMap.mem_of_mem_insertManyIfNewUnit_list contains_eq_false
+
+theorem get?_insertMany_list_of_not_mem_of_contains_eq_false
+    [TransCmp cmp] [BEq α] [LawfulBEqCmp cmp]  {l : List α} {k : α}
```
[the remark this answers is not in the document]
Comment (datokrat) [reply src/Std/Data/TreeSet/Lemmas.lean]: I'm embarrassed by the amount of bad whitespace I overlooked.

File: src/Std/Data/DTreeMap/Internal/Lemmas.lean (hunk 3 above)
Comment (datokrat) [reply src/Std/Data/DTreeMap/Internal/Lemmas.lean]: Good point, I found a shorter proof. We can just use `simp [insertMany_eq_foldl, insert_eq_insert!]`.

File: src/Std/Data/DTreeMap/Internal/Lemmas.lean (hunk 4 above)
Comment (datokrat) [reply src/Std/Data/DTreeMap/Internal/Lemmas.lean:1759]: I just tried adding a preparatory `simp [...] at *` statement to `simp_to_model`, but for some reason

```lean
simp only [compare_eq_iff_beq] at k_beq
```
makes progress but
```lean
simp only [compare_eq_iff_beq] at *
```
does not. Clearly, `simp_to_model` should not know the names of the hypotheses...

Comment (TwoFX) [reply src/Std/Data/DTreeMap/Internal/Lemmas.lean:1759]: I haven't checked, but this could be an instance of #5593, which is "working as intended."

Comment (Rob23oba) [reply src/Std/Data/DTreeMap/Internal/Lemmas.lean:1759]: My solution would be:
1. Rewrite the `List.Associative` lemmas so that the `DistinctKeys` hypothesis is before all the others
2. Revert all the necessary hypotheses, so e.g.:
```lean
theorem get?_insertMany!_list_of_mem [TransOrd α] [LawfulEqOrd α] (h : t.WF)
    {l : List ((a : α) × β a)} {k k' : α} : (k_beq : compare k k' = .eq) → {v : β k} →
    (distinct : l.Pairwise (fun a b => ¬ compare a.1 b.1 = .eq)) →
    (mem : ⟨k, v⟩ ∈ l) →
    (t.insertMany! l).1.get? k' = some (cast (by congr; apply compare_eq_iff_eq.mp k_beq) v) := by
  simp_to_model [insertMany!, get?] using List.getValueCast?_insertList_of_mem
```

Comment (Rob23oba) [reply src/Std/Data/DTreeMap/Internal/Lemmas.lean:1759]: Oh and of course add `Bool.not_eq_true` to the simp lemmas

Comment (datokrat) [reply src/Std/Data/DTreeMap/Internal/Lemmas.lean]: Great idea, thanks for figuring that out!

Comment (datokrat) [reply src/Std/Data/DTreeMap/Internal/Lemmas.lean]: Eliminated all manual preparations to `simp_to_model` of this kind

**Review by TwoFX — APPROVED** [review]

**Comment by Rob23oba** [comment]
I'm a bit confused about the failed test here - lake/tests/buildArgs has nothing to do with tree maps?! Either this is a bug that surfaced just now (which honestly, why?) or this is just a false positive.

**Comment by datokrat** [comment]
Yes, the issue seemed to be transient. I retriggered the Linux build and it succeeded this time...
